US08293917B2
A solution of 3-(3-bromo-phenyl)-3-{[1-(3,4-dichloro-phenyl)-5-methyl-1H-pyrazole-4-carbonyl]-amino}-propionic acid (870 mg, 1.8 mmol) in thionyl chloride (40 mL) is heated at reflux for 1 hour. After cooling to room temperature, the reaction mixture is concentrated in vacuo to afford 3-(3-bromo-phenyl)-3-{[1-(3,4-dichloro-phenyl)-5-methyl-1H-pyrazole-4-carbonyl]-amino}-propionyl chloride as an off-white solid (880 mg, 98%) which is used without further purification.

reactant | 3-(3-bromo-phenyl)-3-{[1-(3,4-dichloro-phenyl)-5-methyl-1H-pyrazole-4-carbonyl]-amino}-propionic acid | 1.8 mmol, 870 mg | BrC=1C=C(C=CC1)C(CC(=O)O)NC(=O)C=1C=NN(C1C)C1=CC(=C(C=C1)Cl)Cl | C20H16BrCl2N3O3
reactant | thionyl chloride | 40 mL | S(=O)(Cl)Cl | Cl2OS
product | 3-(3-bromo-phenyl)-3-{[1-(3,4-dichloro-phenyl)-5-methyl-1H-pyrazole-4-carbonyl]-amino}-propionyl chloride | 880 mg, 98% | BrC=1C=C(C=CC1)C(CC(=O)Cl)NC(=O)C=1C=NN(C1C)C1=CC(=C(C=C1)Cl)Cl | C20H15BrCl3N3O2
